US07112698B2
(E)-1-(3-hydroxy4-propoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-188)
A mixture of 3-hydroxy-4-propoxybenzaldehyde (0.8 g, 4.4 mmol), 3,4,5-trimethoxyacetophenone (0.934 mg, 4.4 mmol) and 50% w/v of aqueous sodium hydroxide (7.0 ml, 0.089 mol) in methanol (10 ml) at room temperature for 18 h. The orange solid isolated by filtration was washed sequentially with cold methanol and ether and finally dried in a vacuum dessicator. Purification was achieved using column chromatography (SiO2, petroleum:ether (40:60 v/v) with an increasing gradient of ethyl acetate) which gave 0.995 g (60%) of a yellow solid. 1H-NMR (CDCl3) δ 7.7 (d, 1H), 7.2 (m, 4H), 7.1 (dd, 3H), 6.9 (d, 1H), 5.7 (s, 1H), 4.1 (t, 2H), 3.9 (s×2, 9H), 1.9 (m, 2H), 1.1 (t, 3H). 13C-NMR (CDCl3) δ 189.1, 153.1, 148.3, 146.0, 144.7, 142.4, 133.7, 128.4, 122.9, 119.8, 112.7, 111.4, 106.1, 70.6, 60.9, 56.4, 22.4, 10.4. Mass Spectrum m/e (M+1) 373. Anal. Calcd. for C21H24O6: C, 67.73; H, 6.5. Found C, 68.01; H, 6.72.

reactant | 3-hydroxy-4-propoxybenzaldehyde | 4.4 mmol, 0.8 g | OC=1C=C(C=O)C=CC1OCCC | C10H12O3
reactant | 3,4,5-trimethoxyacetophenone | 4.4 mmol, 0.934 mg | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | sodium hydroxide | 0.089 mol, 7.0 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (E)-1-(3-hydroxy4-propoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | 0.995 g, 60% | OC=1C=C(C=CC1OCCC)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C21H24O6
